US04555571
6-Fluoro-4-methyl-2(1H)-quinazolinone is prepared by treatment of 2-amino-5-fluoroacetophenone with potassium cyanate as in Example 18 and is isolated as the 1/4 hydrate, (mp 294°-296° C.).

reactant | 2-amino-5-fluoroacetophenone | CC(=O)C1=C(C=CC(=C1)F)N | C8H8FNO
reactant | potassium cyanate | [O-]C#N.[K+]
product | 6-Fluoro-4-methyl-2(1H)-quinazolinone | FC=1C=C2C(=NC(NC2=CC1)=O)C | C9H7FN2O
